US07601714B2
(trans-4-{[5-Bromo-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester (100 mg, 0.174 mmol), CuI (0.97 mg, 0.005 mmol), and Pd(PhCN)2Cl2 (1.96 mg, 0.005 mmol) were dissolved in degassed dioxane (0.5 mmol). To this solution was added tri-(tert)-butylphosphine tetrafluoroborate (2.4 mg, 0.010 mmol) followed by diisopropylamine (0.029 mL, 0.2 mmol) and phenylacetylene (0.022 mL, 0.2 mmol). The reaction was stirred at 25° C. for 18 h. The reaction was worked up by the addition of EtOAc and filtered through a plug of SiO2. The filtrate was concentrated and purified via flash chromatography (SiO2, 25% EtOAc-Hexanes) to yield (4-{[5-phenylethynyl-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester. (4-{[5-Phenylethynyl-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester was dissolved in CH2Cl2 (0.5 mL) and TFA (0.5 mL) was added. The solution was stirred for 2 h and the volatiles were removed and the crude residue was purified via preparative thin layer chromatography (SiO2, 2000 micron thickness, 1:9:90 NH4OH:CH3OH:CH2Cl2) to afford 49 mg (57%) of N4-[(trans-4-aminocyclohexyl)methyl]-5-(phenylethynyl)-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine, m/z 496.58 [M+1]+.

reactant | (trans-4-{[5-Bromo-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 0.174 mmol, 100 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1Br)NCC1=C(C=CC=C1)OC(F)(F)F)=O | C24H31BrF3N5O3
reactant | dioxane | 0.5 mmol | O1CCOCC1 | C4H8O2
reactant | diisopropylamine | 0.2 mmol, 0.029 mL | C(C)(C)NC(C)C | C6H15N
reactant | phenylacetylene | 0.2 mmol, 0.022 mL | C1(=CC=CC=C1)C#C | C8H6
catalyst | CuI | 0.005 mmol, 0.97 mg | [Cu]I
catalyst | Pd(PhCN)2Cl2 | 0.005 mmol, 1.96 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-{[5-phenylethynyl-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1C#CC1=CC=CC=C1)NCC1=C(C=CC=C1)OC(F)(F)F)=O | C32H36F3N5O3
